US08030337B2
6-Amino-7-iodoindan-1-one
6-Amino-1-indanone (5.00 g, 34.0 mmol) was dissolved in a mixed solvent of methanol (200 mL) and water (50 ml), calcium carbonate (6.81 g, 68.0 mmol) and iodine(I) chloride (2.22 mL, 44.2 mmol) were added, and the mixture was stirred at room temperature for 2 hr. To the reaction solution was added saturated aqueous sodium thiosulfate solution, and the organic solvent was evaporated under reduced pressure. To the mixture was added saturated aqueous sodium hydrogencarbonate solution. The mixture was extracted with ethyl acetate and washed with saturated brine. The solvent was evaporated under reduced pressure. The residue was washed with methanol and ethyl acetate to give the title compound (7.95 g, yield 86%).

reactant | 6-Amino-1-indanone | 34.0 mmol, 5.00 g | NC1=CC=C2CCC(C2=C1)=O | C9H9NO
reactant | calcium carbonate | 68.0 mmol, 6.81 g | C([O-])([O-])=O.[Ca+2]
reactant | iodine(I) chloride | 44.2 mmol, 2.22 mL | ICl | ClI
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 6-Amino-7-iodoindan-1-one | 7.95 g, yield 86% | NC1=CC=C2CCC(C2=C1I)=O | C9H8INO
